US09259470B2
Sodium borohydride (112 mg, 2.95 mmol) was added in three portions to a solution of 4-(4-chloro-3-fluorophenyl)-4-hydroxybutan-2-one (160 mg, 0.73 mmol) in methanol (5 mL). The resulting mixture was stirred at room temperature overnight. The reaction mixture was then treated with saturated ammonium chloride. After removal of methanol, the aqueous layer was extracted with ethyl acetate (3×25 mL). The combined organic layers were dried and concentrated to give 1-(4-chloro-3-fluorophenyl)butane-1,3-diol (130 mg, 81% yield) as a solid. 1H NMR (500 MHz, CDCl3) δ 7.36 (m, 1H), 7.17 (m, 1H), 7.04 (m, 1H), 5.07 (m, 1H), 3.48 (br s, 1H), 2.13 (m, 1H), 1.56 (m, 1H), 1.30 (d, J=6.0 Hz, 3H).

reactant | Sodium borohydride | 2.95 mmol, 112 mg | [BH4-].[Na+]
reactant | 4-(4-chloro-3-fluorophenyl)-4-hydroxybutan-2-one | 0.73 mmol, 160 mg | ClC1=C(C=C(C=C1)C(CC(C)=O)O)F | C10H10ClFO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 5 mL | CO | CH4O
product | 1-(4-chloro-3-fluorophenyl)butane-1,3-diol | 130 mg, 81% yield | ClC1=C(C=C(C=C1)C(CC(C)O)O)F | C10H12ClFO2
